US07105530B2
To a 100-mL flask containing 1.88 g (34.8 mmol) sodium methoxide and 60 mL of dry methanol was added 1.27 g (6.96 mmol) of 3-methyl-1H-indazol-6-amine hydrochloride. After stirring the mixture at room temperature for 15 minutes, 0.38 g (12.6 mmol) of paraformaldehyde was added and the flask placed into a 60° C. oil bath for 10 minutes. The flask was then removed from the oil bath and allowed to stir at room temperature for 4.5 hours. To the reaction mixture was added 0.26 g (6.96 mmol) of sodium borohydride and the mixture heated to reflux for 2 hours then allowed to cool to room temperature and stir overnight. To the reaction mixture was added 1M sodium hydroxide (13 mL). After 10 minutes the reaction mixture was concentrated in vacuo to an aqueous suspension. The suspension was diluted with 40 mL of water and pH adjusted to pH 8 with aq. hydrochloric acid. The aqueous suspension was extracted three times with ethyl acetate, and the organic extracts combined and washed with brine, dried with sodium sulfate, and filtered. To the filtrate was added 5 g of silica gel and the resultant suspension concentrated to dryness in vacuo. The solid was loaded on top of a column of 90 g of silica gel and eluted with chloroform/ethyl acetate/methanol (9:0.5:0.5). The proper fractions were combined and concentrated to give 0.43 g (39%) of N, 3-dimethyl-1H-indazol-6-amine as a white solid. HNMR: δ 11.88 (s, 1H), 7.29 (d, 1H), 6.44 (d, 1H), 6.20 (s, 1H), 5.80 (brs, 1H), 2.67 (s, 3H) 2.32 (s, 3H); MS (ES+, m/z) 162 (M+H).

reactant | sodium methoxide | 34.8 mmol, 1.88 g | C[O-].[Na+]
reactant | 3-methyl-1H-indazol-6-amine hydrochloride | 6.96 mmol, 1.27 g | Cl.CC1=NNC2=CC(=CC=C12)N
reactant | paraformaldehyde | 12.6 mmol, 0.38 g | C=O | CH2O
reactant | sodium borohydride | 6.96 mmol, 0.26 g | [BH4-].[Na+]
reactant | sodium hydroxide | 1M, 13 mL | [OH-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | N, 3-dimethyl-1H-indazol-6-amine | 0.43 g, 39% | CNC1=CC=C2C(=NNC2=C1)C | C9H11N3
